US06002008
N-{3-Cyano-4-[(3-methoxyphenyl)amino]-6-quinolinyl}-2-butynamide
Dissolved 362 mg (4.31 mmol) acid in 20 ml THF under N2 and chilled to 0° C. Added 560 μl (4.30 mmol) isobutyl chloroformate and 475 μl (4.31 mmol) N-methylmorpholine and stirred for 10 minutes. Dissolved 500 mg (1.72 mmol) 6-amino-4-[(3-methoxyphenyl)amino]-3-quinolinecarbonitrile in 2 ml hot DMF and added 10 ml THF. Added this to the mixed anhydride dropwise, stirred for 15 minutes at 0° C. and at 25° C. overnight. Stripped solvent, slurried residue with water, collected solids, and air dried. Recrystallized from ethyl acetate and dried in vacuo, giving 270 mg of yellow solid: mass spectrum (electrospray m/e): M+H=357.1.

reactant | isobutyl chloroformate | 4.30 mmol, 560 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 4.31 mmol, 475 μl | CN1CCOCC1 | C5H11NO
reactant | 6-amino-4-[(3-methoxyphenyl)amino]-3-quinolinecarbonitrile | 1.72 mmol, 500 mg | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)OC | C17H14N4O
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | N-{3-Cyano-4-[(3-methoxyphenyl)amino]-6-quinolinyl}-2-butynamide | 270 mg | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)OC)NC(C#CC)=O | C21H16N4O2
